US07335674B2
7 g (16.2 mmol; 2.2 equivalents) of bis(trifluoroacetoxy)iodobenzene dissolved in 130 ml of an acetonitrile/water mixture 4/1 is added dropwise to a solution of 2.04 g (7.38 mmol) of 2-(2,5-difluorophenyl)-5-methoxy-1,3-benzoxazol-7-amine in 75 ml of an acetonitrile/water mixture 4:1 at −5° C. After stirring for 1 hour at −5° C., 150 ml of water is added to the reaction medium and the product formed is extracted with twice 300 ml of dichloromethane. The organic phases are combined and dried over sodium sulphate, then the solvents are evaporated off under reduced pressure. The residue is then purified by chromatography on a silica column (eluent: dichloromethane/methanol mixture 98:2) and 200 mg (10% yield) of 2-(2,5-difluorophenyl)-5-methoxy-1,3-benzoxazole-4,7-dione is obtained in the form of a yellow powder.

reactant | bis(trifluoroacetoxy)iodobenzene | 16.2 mmol, 7 g, 2.2 equivalents | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 2-(2,5-difluorophenyl)-5-methoxy-1,3-benzoxazol-7-amine | 7.38 mmol, 2.04 g | FC1=C(C=C(C=C1)F)C=1OC2=C(N1)C=C(C=C2N)OC | C14H10F2N2O2
reactant | water | 150 ml | O | H2O
solvent | acetonitrile water | 130 ml | C(C)#N.O
solvent | acetonitrile water | 75 ml | C(C)#N.O
product | 2-(2,5-difluorophenyl)-5-methoxy-1,3-benzoxazole-4,7-dione | 200 mg, 10% yield | FC1=C(C=C(C=C1)F)C=1OC2=C(N1)C(C(=CC2=O)OC)=O | C14H7F2NO4
